US09370522B2
Step 1. 3,4-diaminobenzenesulfonic acid
Concentrated sulfuric acid (200 mL) was added to benzene-1,2-diamine (20 g, 184.95 mmol, 1.00 equiv) at −40° C., and the solution was stirred for 30 minutes at room temperature, then overnight at 140° C. in an oil bath. Upon cooling to room temperature, the reaction was quenched by 500 g of ice. The solids were collected by filtration, and the crude product was purified by re-crystallization from water affording 9.8 g (28%) of 3,4-diaminobenzenesulfonic acid as a white solid.

reactant | benzene-1,2-diamine | 184.95 mmol, 20 g, 1.00 equiv | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | sulfuric acid | 200 mL | S(O)(O)(=O)=O | H2O4S
product | 3,4-diaminobenzenesulfonic acid | NC=1C=C(C=CC1N)S(=O)(=O)O | C6H8N2O3S
